US04199591
5,6-Dimethyl-3a,4,7,7a-tetrahydro-1,2-benzisothiazol 3(2H) -one 1,1-dioxide
A 40 ml solution of ethylene dichloride containing 5.3 g (0.04 mole) of 4-isothiazolin-3-one 1,1-dioxide and 3.3 g (0.04 mole) of 2,3-dimethyl-1,3-butadiene is heated at 45°-50° C. overnight. The golden solution is cooled and concentrated to give an oil. Trituration of the oil with ether gives a white solid, 7.7 g (80%), m.p. 110°-112° C., which can be recrystallized from ethyl acetate.

reactant | ethylene dichloride | 0.04 mole, 5.3 g | C(CCl)Cl | C2H4Cl2
reactant | 4-isothiazolin-3-one 1,1-dioxide | S1(NC(C=C1)=O)(=O)=O | C3H3NO3S
reactant | 2,3-dimethyl-1,3-butadiene | 0.04 mole, 3.3 g | CC(=C)C(=C)C | C6H10
solvent | ether | CCOCC | C4H10O
product | 5,6-Dimethyl-3a,4,7,7a-tetrahydro-1,2-benzisothiazol 3(2H) -one 1,1-dioxide | CC1=C(CC2C(C(NS2(=O)=O)=O)C1)C | C9H13NO3S
